Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12],-3.958148547980002
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],1.57855168597
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.3894237538000001
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.555387844151
[H:1][C:2][C:14]([H:15])([H:16])[H:17].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.82413279308
[C:1]=[C:2]([O:3][C:4][H:5])[C:8]([H:9])([H:10])[H:11].[C:6][H:7]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.28096755633
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][H:9].[H:1][C:2]([H:3])=[C:4]=[C:10]([H:11])[H:12],1.6116408625299998
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]=[O:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]=[O:9],-3.54460772255
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.72635322034
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10],2.15609981221
[H:11].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.5839321138999998
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:6],1.73111054229
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7](=[O:8])[H:9],5.00437469389
[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.4216339855
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2](=[O:3])[C:13]([C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],0.41350598438
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.689286155221
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],1.94253973378
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]=[C:10]([H:11])[H:12],6.06494757074
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-3.9399576225
[O:1]=[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2],0.7547622745199999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8][O:9][H:10],0.8116981443800001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.67295947429
[C:7](=[O:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11],-1.08281979355
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],2.33687751344
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[H:10],5.09984982247
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],2.31415074
[H:13].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.43957217
[C:7]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-7.6810467075699975
